US05438035
Preparation of 7-Bromo-4-tert-butyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione
Bromine (1.72 g, 10.8 mmol) is added to a mixture of 4-tert-butyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione (1.0 g, 4.3 mmol) and sodium acetate (0.39 g, 4.8 mmol) in acetic acid. The reaction mixture is stirred at room temperature for 29 hours, concentrated in vacuo, diluted with ethyl acetate, washed sequentially with 0.1N sodium hydroxide solution and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give a residue. Chromatography of the residue using silica gel and 20% to 25% ethyl acetate in hexanes solutions gives the title product as a white solid (0.86 g, mp 205°-208° C.).

reactant | Bromine | 10.8 mmol, 1.72 g | BrBr | Br2
reactant | 4-tert-butyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 4.3 mmol, 1.0 g | C(C)(C)(C)N1CC(NC2=C(C1=O)C=CC=C2)=O | C13H16N2O2
reactant | sodium acetate | 4.8 mmol, 0.39 g | C(C)(=O)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-Bromo-4-tert-butyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 0.86 g | BrC=1C=CC2=C(C(N(CC(N2)=O)C(C)(C)C)=O)C1 | C13H15BrN2O2
